US04703054
2,2-Dimethyl-1-[2-(2-isopropyl-5-oxo-1-imidazolidineacetamido)acetyl]-4-imidazolidinone
A solution of 1-[2-[2-(2-aminoacetamido)acetamido]acetyl]-2,2-dimethyl-4-imidazolidinone (0.5 g) and isobutyraldehyde (0.18 ml) in methanol (5 ml) was refluxed for 0.5 hours.

reactant | 1-[2-[2-(2-aminoacetamido)acetamido]acetyl]-2,2-dimethyl-4-imidazolidinone | 0.5 g | NCC(=O)NCC(=O)NCC(=O)N1C(NC(C1)=O)(C)C | C11H19N5O4
reactant | isobutyraldehyde | 0.18 ml | C(C(C)C)=O | C4H8O
solvent | methanol | 5 ml | CO | CH4O
product | 2,2-Dimethyl-1-[2-(2-isopropyl-5-oxo-1-imidazolidineacetamido)acetyl]-4-imidazolidinone | CC1(N(CC(N1)=O)C(CNC(CN1C(NCC1=O)C(C)C)=O)=O)C | C15H25N5O4
